US05821246
Using an analogous procedure to that described in Example 1, 4,7-dichloro-6-nitroquinazoline was reacted with 5-amino-2-tolyl 2-pyridylmethyl ether to give 7-chloro-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline in 81% yield.

reactant | 4,7-dichloro-6-nitroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])Cl | C8H3Cl2N3O2
reactant | 5-amino-2-tolyl 2-pyridylmethyl ether | N1=C(C=CC=C1)COC=1C(=CC(=CC1)N)C | C13H14N2O
product | 7-chloro-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline | 81% yield | ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)[N+](=O)[O-] | C21H16ClN5O3
